US04450272
N-Ethyl-4-(6-methoxy-2-pyrazinyl)-1-piperazinethiocarboxamide
To a solution of 1.94 g. of 1-(6-methoxypyrazinyl)piperazine in 25 ml. of anhydrous ether is added dropwise a solution of 0.87 g. of ethylisothiocyanate in 25 ml. of anhydrous ether. The mixture is stirred 30 minutes and the solid collected and recrystallized from 80% ethanol, giving 2.27 g. of the desired product as white crystals, m.p. 120°-122° C.

reactant | 1-(6-methoxypyrazinyl)piperazine | COC1=CN=CC(=N1)N1CCNCC1 | C9H14N4O
reactant | ethylisothiocyanate | C(C)N=C=S | C3H5NS
solvent | ether | CCOCC | C4H10O
product | N-Ethyl-4-(6-methoxy-2-pyrazinyl)-1-piperazinethiocarboxamide | C(C)NC(=S)N1CCN(CC1)C1=NC(=CN=C1)OC | C12H19N5OS
